US05173484
Analogously to example 30 7-(3-tert.-butoxycarbonylaminomethyl-3-hydroxy-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-4-oxo-3-quinolinecarboxylic acid are reacted with acetic acid anhydride, yielding 7-3-acetoxy-3-tert.-butoxycarbonylaminomethyl-3-hydroxy-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, melting point: 215° C. (decomposition).

reactant | 7-(3-tert.-butoxycarbonylaminomethyl-3-hydroxy-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-4-oxo-3-quinolinecarboxylic acid | C(C)(C)(C)OC(=O)NCC1(CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F)O | C23H27F2N3O6
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=CC(=C12)F)F)=O)C(=O)O | C13H9F2NO3
